US05300506
To a solution of 0.0738 g (0.157 mmol, 1.0 equiv.) of 3-(3-t-butyldimethysilyloxypropyl)-2-trimethylsilyl-N-methyl-1H-indole-5-methanesulfonamide in 2 mL of pyridine at 0° C. was added I mL of 48% aqueous hydrofluoric acid. The solution was stirred for 20 minutes at 0° C. The solution was diluted with 25 mL of ethyl acetate and washed with 10 mL of 10% aqueous sodium carbonate. The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to yield 0.0551 g (99%) of 3-(3-hydroxypropyl)-2-trimethylsilyl-N-methyl-1H-indole-5-methanesulfonamide, homogeneous by 1H NMR and TLC.

reactant | 3-(3-t-butyldimethysilyloxypropyl)-2-trimethylsilyl-N-methyl-1H-indole-5-methanesulfonamide | 0.157 mmol, 0.0738 g, 1.0 equiv. | [Si](C)(C)(C(C)(C)C)OCCCC1=C(NC2=CC=C(C=C12)CS(=O)(=O)NC)[Si](C)(C)C | C22H40N2O3SSi2
reactant | hydrofluoric acid | F | FH
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
product | 3-(3-hydroxypropyl)-2-trimethylsilyl-N-methyl-1H-indole-5-methanesulfonamide | 0.0551 g, 99% | OCCCC1=C(NC2=CC=C(C=C12)CS(=O)(=O)NC)[Si](C)(C)C | C16H26N2O3SSi
